US07790668B2
860 g 6-Methoxy-6-methyl-2-octanone, 4 l tert.-butyl methyl ether and 648 g methyl chloroacetate were cooled to 0° C. under a blanket of nitrogen. Under further cooling, 350 g sodium methoxide was added in 6 portions over 20 minutes. The mixture was then stirred at room temperature till no more consumption of the ketone was observed (GC). After cooling to 0° C., 1 l 5% acetic acid (w/w) was added and the phases were separated. The aqueous phase was extracted with tert.-butyl methyl ether (500 ml). The combined organic phases were washed with water, concentrated KHCO3 solution, concentrated NaCl solution and dried over MgSO4. The yellow oil which remained after the removal of the solvent was distilled over a small Vigreux-column to give 823 g of 3-(4-methoxy-4-methyl-hexyl)-3-methyl-oxirane-2-carboxylic acid methyl ester (mixture of isomers, boiling point: 115°-128°/0.3 Torr=0.399 mbar).

reactant | 6-Methoxy-6-methyl-2-octanone | 860 g | COC(CCCC(C)=O)(CC)C | C10H20O2
reactant | tert.-butyl methyl ether | 4 l | COC(C)(C)C | C5H12O
reactant | methyl chloroacetate | 648 g | ClCC(=O)OC | C3H5ClO2
reactant | sodium methoxide | 350 g | C[O-].[Na+]
solvent | acetic acid | 1 l | C(C)(=O)O | C2H4O2
product | 3-(4-methoxy-4-methyl-hexyl)-3-methyl-oxirane-2-carboxylic acid methyl ester | 823 g | COC(=O)C1OC1(C)CCCC(CC)(C)OC | C13H24O4
